US09290591B2
To (E)-N-benzylidene-2-methoxyaniline (5.00 g, 23.7 mmol, 1.00 equiv) in anhydrous THF (106 mL) at 0° C. was added isopropylmagnesium chloride (13.0 mL, 2.0 M in Et2O, 26.0 mmol, 1.10 equiv) and the reaction mixture was stirred at 0° C. for 1 h. A saturated aqueous solution of NH4Cl (50 mL) was added and the aqueous layer was extracted with Et2O (3×50 mL). The combined organic layers were washed with brine (25 mL), dried over MgSO4, filtered, and concentrated. The residue was purified by chromatography on SiO2, eluting with 2% v/v EtOAc/hexanes, to give 2-methoxy-N-(2-methyl-1-phenylpropyl)aniline as a colorless oil (1.72 g, 28% yield).

reactant | (E)-N-benzylidene-2-methoxyaniline | 23.7 mmol, 5.00 g, 1.00 equiv | C(/C1=CC=CC=C1)=N\C1=C(C=CC=C1)OC | C14H13NO
reactant | isopropylmagnesium chloride | 26.0 mmol, 2.0 M, 13.0 mL, 1.10 equiv | C(C)(C)[Mg]Cl
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 106 mL | C1CCOC1 | C4H8O
product | 2-methoxy-N-(2-methyl-1-phenylpropyl)aniline | 1.72 g, 28% yield | COC1=C(NC(C(C)C)C2=CC=CC=C2)C=CC=C1 | C17H21NO
